US04025644
In 150 ml of 50% aqueous methanol, 13.1 g of sodium borohydride was added with stirring while cooling with ice. To the mixture was added dropwise 250 ml of a methanol solution containing 26.5 g of methyl N-(4-methylbenzyloxycarbonyl)-tyrosinate. The mixture was stirred while cooling with ice for two hours and at room temperature for four hours. After neutralization with 10% hydrochloric acid, the mixture was concentrated in vacuo and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. The residue was crystallized from ethyl acetate-petroleum ether to give 17.9 g of N-(4-methylbenzyloxycarbonyl)-tyrosinol: yield 74%; mp. 128°-129° C. Analysis, calculated for C18H21O4N: C, 68.55; H, 6.72; N, 4.44; found C, 68.51; H, 6.84; N, 4.29.

reactant | sodium borohydride | 13.1 g | [BH4-].[Na+]
reactant | methyl N-(4-methylbenzyloxycarbonyl)-tyrosinate | 26.5 g | CC1=CC=C(COC(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)OC)C=C1 | C19H21NO5
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
product | N-(4-methylbenzyloxycarbonyl)-tyrosinol | 17.9 g, yield 74% | CC1=CC=C(COC(=O)N[C@@H](CC2=CC=C(C=C2)O)CO)C=C1 | C18H21NO4
